US04603013
15β-n-Butyl-4,9-estradiene-3,17-dione
6.25 ml of a 15% solution of n-butyllithium in hexane are added to a suspension of 500 mg of copper(I) cyanide in 10 ml of absolute tetrahydrofuran drop by drop at -78° C. After addition, it is stirred for 15 minutes more at -78° C., before a solution of 1.2 g of 4,9,15-estratriene-3,17-dione in 20 ml of absolute tetrahydrofuran is added drop by drop. Then it is stirred for 90 minutes, during which the temperature of the reaction solution is allowed gradually to rise to -20° C. For finishing, it is poured in concentrated aqueous ammonia solution and extracted with ethyl acetate. After recrystallization of the crude product from ethyl acetate/diisopropyl ether, 940 mg of 15β-n-butyl-4,9-estradiene-3,17-dione with a melting point of 159° to 161° C. are obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | copper(I) cyanide | 500 mg | [Cu]C#N
reactant | 4,9,15-estratriene-3,17-dione | 1.2 g | C[C@@]12C(C=C[C@H]1[C@@H]1CCC3=CC(CCC3=C1CC2)=O)=O | C18H20O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ammonia | N | H3N
product | 15β-n-Butyl-4,9-estradiene-3,17-dione | C(CCC)[C@@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CCC3=C1CC2)=O)=O | C22H30O2
